US07220744B2
2-Ethylsulfanyl-5-methanesulfonyl-benzoic acid
To a solution of 4.58 mmol 2-fluoro-5-methanesulfonyl-benzoic acid (Example A14(b)) in 6 ml N,N-dimethylformamide were added 13.8 mol cesium carbonate and 9.25 mmol ethanethiol and the mixture was stirred at 90° C. for 30 min. The reaction mixture was then cooled to room temperature and acidified to pH1 by addition of hydrochloric acid before being extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo to afford the title compound as a white solid which was used in the next step without further purification (yield 99%). MS (m/e): 259.0 ([M−H]−, 100%).

reactant | 2-fluoro-5-methanesulfonyl-benzoic acid | 4.58 mmol | FC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7FO4S
reactant | cesium carbonate | 13.8 mol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethanethiol | 9.25 mmol | C(C)S | C2H6S
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-Ethylsulfanyl-5-methanesulfonyl-benzoic acid | yield 99% | C(C)SC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C10H12O4S2
